US06982348B2
To a solution of tert-butyl (1RS,2SR)-2-(3-chlorophenyl)-2-hydroxy-1-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]ethylcarbamate (2.00 g, 4.05 mmol) in chloroform (20 ml) was added trifluoroacetic acid (20 ml), and the mixture was stirred at room temperature for 1 hr. The mixture was concentrated under reduced pressure. To the residue was added water, and the mixture was basified with saturated aqueous sodium hydrogen carbonate. The aqueous layer was extracted with ethyl acetate, dried over anhydrous magnesium sulfate, filtered and concentrated under the reduced pressure. The residue was recrystallized from (hexane-ethyl acetate) to give (1RS,2SR)-2-amino-1-(3-chlorophenyl)-3-[4-(2,2,3,3,3-pentafluoropropyl)phenyl]-1-propanol (1.08 g, 68%) as colorless crystals.

reactant | tert-butyl (1RS,2SR)-2-(3-chlorophenyl)-2-hydroxy-1-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]ethylcarbamate | 4.05 mmol, 2.00 g | ClC=1C=C(C=CC1)C(C(CC1=CC=C(C=C1)CC(C(F)(F)F)(F)F)NC(OC(C)(C)C)=O)O | C23H25ClF5NO3
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | (1RS,2SR)-2-amino-1-(3-chlorophenyl)-3-[4-(2,2,3,3,3-pentafluoropropyl)phenyl]-1-propanol | 1.08 g, 68% | NC(C(O)C1=CC(=CC=C1)Cl)CC1=CC=C(C=C1)CC(C(F)(F)F)(F)F | C18H17ClF5NO
